US07915261B2
1-Ethyl-3-(dimethylaminopropyl)carbodiimide hydrochloride (150 mg), 1-hydroxybenzotriazole (110 mg) and diisopropylethylamine (0.23 ml) were added to a DMF (5 ml) solution containing the resulting compound (190 mg) and 4-(cyclooctylmethoxy)benzoic acid (176 mg) prepared from cyclooctylmethanol with reference to Reference Example 70, followed by stirring overnight at room temperature. The reaction solution was diluted with EtOAc, the organic layer was washed with aqueous saturated sodium hydrogencarbonate solution, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was recrystallized from EtOAc/hexane to obtain 3-pyridyl 4-[4-(cyclooctylmethoxy)benzoyl]-1-piperazinecarboxylate (240 mg).

reactant | 1-Ethyl-3-(dimethylaminopropyl)carbodiimide hydrochloride | 150 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 110 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.23 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(cyclooctylmethoxy)benzoic acid | 176 mg | C1(CCCCCCC1)COC1=CC=C(C(=O)O)C=C1 | C16H22O3
reactant | cyclooctylmethanol | C1(CCCCCCC1)CO | C9H18O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-pyridyl 4-[4-(cyclooctylmethoxy)benzoyl]-1-piperazinecarboxylate | 240 mg | C1(CCCCCCC1)COC1=CC=C(C(=O)N2CCN(CC2)C(=O)OC=2C=NC=CC2)C=C1 | C26H33N3O4
